US04968710
A solution of 2.00 g (8.39 mmole) of the known compound 2,6-di-t-butyl-4-mercaptophenol, 1.65 g (8.39 mmole) of p-cyanobenzyl bromide, 5 ml of 1.68N sodium hydroxide and 75 ml of ethanol was heated at reflux for 48 hours. The reaction mixture was poured into water, and was then extracted with diethyl ether. The ether extract was washed with water, dried with magnesium sulfate and evaporated to give the crude product. This material was purified by silica gel chromatography, eluting with 1% ethyl acetate in hexane, followed by recrystallizations from a mixture of ethyl acetate and hexane and from ethanol to give 1.1 g of 2,6-di-t-butyl-4-[(4-cyanophenyl)methylthio]phenol as white needles, m.p. 143°-145° C. Analysis: Calculated for C22H27NOS: %C, 74.7; %H, 7 7; %N, 4.0; Found: %C, 75.1; %H, 8.1; %N, 4.1.

reactant | 2,6-di-t-butyl-4-mercaptophenol | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | p-cyanobenzyl bromide | 8.39 mmole, 1.65 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | sodium hydroxide | 1.68N, 5 ml | [OH-].[Na+]
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,6-di-t-butyl-4-[(4-cyanophenyl)methylthio]phenol | 1.1 g | C(C)(C)(C)C1=C(C(=CC(=C1)SCC1=CC=C(C=C1)C#N)C(C)(C)C)O | C22H27NOS
